2121-10-26 07:47:00 Physician Resident Progress Note
Chief Complaint: 89 year old woman with hypertension, paroxysmal atrial
   fibrillation, aortic stenosis, recent pseudomonas bacteremia,
   presenting with nausea, vomiting, bradycardia, hypotension and
   respiratory failure, in critical condition. [**2121-10-24**] patient
   experienced R anterior MCA infarct.
   24 Hour Events:
   Currently family decided no aggressive care, however not comfort care.
   No NG tube for now.
   CT Head without contrast: Edema of the right hemisphere with mass
   effect upon the right
   lateral ventricle and 4 mm leftward shift of midline structures.
   Allergies:
   Codeine
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2121-10-24**] 12:14 PM
   Vancomycin - [**2121-10-25**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-10-26**] 12:38 AM
   Ciprofloxacin - [**2121-10-26**] 12:40 AM
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-10-25**] 04:00 PM
   Other medications:
   Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing
   Acetaminophen 650 mg PR Q6H:PRN
   Insulin SC
   Acetaminophen 650 mg PR
   Lorazepam 0.5 mg IV Q6H:PRN
   Levothyroxine Sodium 25 mcg IV DAILY
    Pantoprazole 40 mg IV
   Aspirin 300 mg PR DAILY
   Aspirin 325 mg PO DAILY
   Ipratropium Bromide Neb 1 NEB IH Q6H
    iprofloxacin 400 mg IV
   Piperacillin-Tazobactam Na 2.25 g IV Q6H
   Vancomycin 1000 mg IV Q48H
   Day 1 = [**2121-10-23**]  [**10-23**] @ 0204 View
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Heparin 5000 UNIT SC TID
   Docusate Sodium (Liquid) 100 mg PO BID
   Senna 1 TAB PO BID:PRN
   Bisacodyl 10 mg PO/PR DAILY:PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 116 (98 - 132) bpm
   BP: 111/67(92) {111/65(79) - 184/143(146)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,782 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  1,782 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                     50 mL
   Urine:
                                                                    810 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    972 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Dry mucosa
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Murmur
   at RUSB and throughout.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): [**Location (un) **], name
   (not date), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   262 K/uL
   12.2 g/dL
   99 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   20 mg/dL
   98 mEq/L
   134 mEq/L
   36.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2121-10-23**]  12:15 AM
                             [**2121-10-23**]  05:22 AM
                            [**2121-10-24**]  04:43 AM
                            [**2121-10-24**]  09:37 AM
                            [**2121-10-24**]  06:44 PM
                            [**2121-10-25**]  05:55 AM
                            [**2121-10-26**]  06:08 AM
   WBC
   12.9
   9.3
   11.5
   13.4
   14.7
   12.9
   Hct
   36.2
   30.7
   32.2
   32.2
   34.1
   36.5
   Plt
   [**Telephone/Fax (3) 1705**]98
   236
   262
   Cr
   1.3
   1.2
   1.2
   0.9
   TropT
   <0.01
   0.01
   Glucose
   102
   78
   282
   99
   Other labs: PT / PTT / INR:22.4/30.5/2.2, CK / CKMB /
   Troponin-T:189/7/0.01, Differential-Neuts:87.1 %, Lymph:8.8 %, Mono:3.7
   %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   89 year old woman with hypertension, paroxysmal atrial fibrillation,
   aortic stenosis, recent pseudomonas bacteremia, presenting with nausea,
   vomiting, bradycardia, hypotension and respiratory failure, in critical
   condition. [**2121-10-24**] patient experienced R anterior MCA infarct.
   .
   # STROKE: CTA with perfusion prelim report demonstrates right
   hemispheric infarct of the anterior middle cerebral artery
   distribution. Occlusion of the intracranial right internal carotid
   artery. Most likely cardioembolic related to A Fib. Neurology Stroke
   service following and appreciate recommendations.
   - Continue ASA 325mg daily
   - Coumadin should be held for 5-10 days due to high risk of hemorrhagic
   transformation
   - CT scan demonstrates R hemisphere mass effect R lateral ventricle and
   4 mm leftward shift midline structures - discuss with neuro
   - Allow BP autoregulation - Keep SBP < 220
   - Tight glycemic control and maintain T < 100.5
   .
   # Right upper extremity arterial clot: Palpable radial pulse. Physical
   exam mildly improved since yesterday. No urgent need to embolectomy
   which would require general anesthesia. Can not anticoagulate due to
   acute stroke and high risk of hemorrhage
   - Vascular surgery following and appreciate recommendations
   - Continue to follow with exam
   .
   # Rhythm: Currently in A Fib with RVR.
   -- Continue Esmolol ggt for RVR Goal HR 100-120 with SBP not < 150 in
   setting of acute stroke.
   .
   # HYPOTENSION / HYPOTHERMIA: Resolved, etiology most likely sepsis.
   Patient currently hypertensive in setting of acute stroke. Tmax 99.8,
   WBC 14.7.
   -- Continue Vancomycin and Zosyn, per ID continue Cipro
   -- urine culture final no growth
   -- blood culture no growth so far
   .
   # URINARY TRACT INFECTION: Final urine culture no growth.
   .
   # ACUTE ON CHRONIC RENAL FAILURE: improving, currently 0.9. Decreased
   urine output, differential includes pre-renal vs. embolic. Continue to
   monitor.
   .
   #Hypothyroidism: continue levothyroxine
   .
   #FEN: Failed speech and swallow. NPO including meds and ice chips.
   Currently on IV meds. Patient's family discussed wishes not to have NG
   placed for nutrition. Confirm with family can feed patient in setting
   of high aspiration risk.
   .
   #Code: DNR/DNI. Palliative care spoke with family yesterday. Family
   expressed comfort oriented care. Need to discuss with family specific
   medications and there continuation.
   .
   # CONTACT: [**Name (NI) **]/[**Name2 (NI) **] (C) [**Telephone/Fax (1) 1706**] daughter-in-law/[**Doctor First Name **] (C) [**Telephone/Fax (1) 1707**] Home#: [**Telephone/Fax (1) 1708**]
   .
   ACCESS: Right IJ [**2121-10-22**], placed in ED
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Pain managment with tylenol
   -Bowel regimen
   .
   #Dispo: Intensive care unit
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-10-23**] 01:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: